US08957203B2
A solution of tert-butyl ((2S,3R)-1-((2S,4R)-2-(((1R,2S)-1-(((1-(fluoromethyl)cyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-hydroxypyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate (7.5 g, 22.84 mmol) in DCE (2855 ml) was sparged with nitrogen for 30 min. and then Hoveyda-Grubbs Catalyst 2nd Generation (0.718 g, 1.142 mmol) was added and the reaction heated to 80° C. for 2 hrs. The reaction was concentrated and purified by flash chromatography on silica gel (20-60% Acetone in hexanes) to give tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-14a-(((1-(fluoromethyl)cyclopropyl)sulfonyl)carbamoyl)-2-hydroxy-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate (4 g, 6.36 mmol, 27.9% yield). MS: MS m/z 629.3 (M++1).

reactant | tert-butyl ((2S,3R)-1-((2S,4R)-2-(((1R,2S)-1-(((1-(fluoromethyl)cyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-hydroxypyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate | 22.84 mmol, 7.5 g | FCC1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@@H](C1)O)C([C@H]([C@@H](CC(CCC=C)C)C)NC(OC(C)(C)C)=O)=O | C31H49FN4O8S
solvent | DCE | 2855 ml | ClCCCl | C2H4Cl2
catalyst | Hoveyda-Grubbs Catalyst 2nd Generation | 1.142 mmol, 0.718 g | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=C(C=CC=C3)OC(C)C)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C
product | tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-14a-(((1-(fluoromethyl)cyclopropyl)sulfonyl)carbamoyl)-2-hydroxy-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | 6.36 mmol, 4 g, 27.9% yield | FCC1(CC1)S(=O)(=O)NC(=O)[C@]12NC([C@H]3N(C([C@H]([C@@H](CC(CC\C=C/[C@@H]1C2)C)C)NC(OC(C)(C)C)=O)=O)C[C@@H](C3)O)=O | C29H45FN4O8S
